US06610695B1
2-(4-Methylsulfinylphenyl)-4-(4-fluorophenyl)-5-(2-methoxy-4-pyrimidinyl)imidazole
To a solution of 2-(4-methylthiophenyl)-4-(4-fluorophenyl)-5-(2-methoxy-4-pyrimidinyl)imidazole (0.10 g, 0.25 mmol) in 10 mL of THF at 0° C. was added a cooled solution of Oxone (0.084 g, 0.28 mmol)in 10 mL of H2O. The solution was warmed to room temperature and stirred for 20 min. Next, 20 mL of NaHCO3 sat was added and the mixture was extracted thrice with 20 mL of CH2Cl2. The combined organic layers were washed with 20 mL of 20% NaS2O5 and brine and then dried over MgSO4, filtered and concentrated under reduced pressure. The resulting residue was then purified by silica gel chromatography with 2-6% CH3OH/CH2Cl2 to give the title compound as a light yellow solid (0.084 g, 82%). ES(+) MS m/e=409 (MH+)

reactant | 2-(4-methylthiophenyl)-4-(4-fluorophenyl)-5-(2-methoxy-4-pyrimidinyl)imidazole | 0.25 mmol, 0.10 g | CSC1=CC=C(C=C1)C=1NC(=C(N1)C1=CC=C(C=C1)F)C1=NC(=NC=C1)OC | C21H17FN4OS
reactant | Oxone | 0.28 mmol, 0.084 g | OOS(=O)[O-].[K+]
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | H2O | 10 mL | O | H2O
product | 2-(4-Methylsulfinylphenyl)-4-(4-fluorophenyl)-5-(2-methoxy-4-pyrimidinyl)imidazole | 0.084 g, 82% | CS(=O)C1=CC=C(C=C1)C=1NC(=C(N1)C1=CC=C(C=C1)F)C1=NC(=NC=C1)OC | C21H17FN4O2S
